US09212190B2
Synthesis of 2-[(3R)-12-[[4-(piperazin-1-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetamide (I-131)
To a solution of tert-butyl-4-(4-[[(3R)-3-(cyanomethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-12-yl]oxy]cyclohexyl)piperazine-1-carboxylate (260 mg, 0.52 mmol, 1.00 equiv) in methanol (15 mL) were added LiOH.H2O (150 mg, 3.57 mmol, 6.84 equiv), H2O2 (30%) (0.8 mL). The resulting solution was stirred for 4 h at 0° C. The reaction was then quenched by the addition of 10 mL of Na2SO3 (aq.). The resulting solution was extracted with 3×30 mL of dichloromethane and the organic layers combined and concentrated under vacuum. This resulted in 120 mg (45%) of tert-butyl 4-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-12-yl]oxy]cyclohexyl)piperazine-1-carboxylate as a yellow oil.

reactant | tert-butyl-4-(4-[[(3R)-3-(cyanomethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-12-yl]oxy]cyclohexyl)piperazine-1-carboxylate | 0.52 mmol, 260 mg, 1.00 equiv | C(C)(C)(C)OC(=O)N1CCN(CC1)C1CCC(CC1)OC=1N=CN=C2SC=3CC[C@@H](C3C12)CC#N | C26H35N5O3S
reactant | LiOH.H2O | 3.57 mmol, 150 mg, 6.84 equiv | O[Li].O
reactant | H2O2 | 0.8 mL | OO | H2O2
solvent | methanol | 15 mL | CO | CH4O
product | 2-[(3R)-12-[[4-(piperazin-1-yl)cyclohexyl]oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetamide | N1(CCNCC1)C1CCC(CC1)OC=1N=CN=C2SC=3CC[C@@H](C3C12)CC(=O)N | C21H29N5O2S
